datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15],0.0
[C:0]([C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])[H:7].[H:13]>>[C:0]([C:1]1([H:8])[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])=[C:5]1[H:12])([H:6])([H:7])[H:13],-3.3472
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8])([H:6])[H:7],1.71544
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23],34.3088
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([c:29]1[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]1[H:43])[H:38])([H:35])([H:36])[H:37]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:35])([H:36])[H:37])([c:29]1[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]1[H:43])[H:38])[H:15])([H:13])[H:14],41.589
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([H:20])([H:21])[H:22])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:17])[H:8])([H:6])[H:7].[C:15]([C:16]([H:20])([H:21])[H:22])([H:18])[H:19],120.918
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]=[C:14]([H:17])[H:18])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:13]([C:12]([H:15])[H:16])=[C:14]([H:17])[H:18])[H:5],43.2626
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20])([H:14])([H:15])[H:16]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:10]([C:9]([H:14])([H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[S:13])[H:20],117.57
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[H:10][O:23][H:24],-2.48948
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[O:33][O:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][O:33][O:34],213.09112
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])([C:14]([H:22])([H:23])[H:24])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:18])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]([H:22])([H:23])[H:24])([H:15])([H:16])[H:17],62.3416
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31],-7.1128
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[O:11]>>[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:6])[H:7].[H:5][O:11],19.874
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])[H:3],49.5386
